US07053212B2
Step B: N-[2-Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide
To a solution of [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-(4-iodophenyl)-amine (3.00 g, 6.76 mmol) in 4 mL methylene chloride was added triethylamine (2.84 mL, 20.3 mmol) and 2-mesitylenesulfonyl chloride (2.96 g, 13.5 mmol). The reaction mixture was stirred at room temperature overnight. Additional triethylamine (1 mL, 7.15 mmol) was added and the reaction mixture was allowed to stir at room temperature overnight. DMAP was added and the reaction mixture was allowed to stir at room temperature for three days. Additional methylene chloride (2 mL), triethylamine (1 mL, 7.15 mmol) and 2-mesitylenesulfonyl chloride (1.00 g, 4.57 mmol) were added. The reaction mixture was stirred at 30° C. overnight. Additional triethylamine (2.84 mL, 20.3 mmol) and DMAP were added and the reaction was stirred at 30° C. overnight. Additional 2-mesitylenesulfonyl chloride (0.54 g, 2.47 mmol) was added and the reaction mixture was stirred at 30° C. overnight. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with methylene chloride. The organic layer was dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography of the residue afforded 2.30 g (54%) of the title compound of Step B.

reactant | [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-(4-iodophenyl)-amine | 6.76 mmol, 3.00 g | ClC1=C(CNC2=CC=C(C=C2)I)C=CC(=C1)OC1OCCCC1 | C18H19ClINO2
reactant | triethylamine | 20.3 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 13.5 mmol, 2.96 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | triethylamine | 7.15 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7.15 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 4.57 mmol, 1.00 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | triethylamine | 20.3 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 2.47 mmol, 0.54 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-Chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide | 2.30 g, 54% | ClC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)I)C=CC(=C1)OC1OCCCC1 | C27H29ClINO4S
